US07101885B2
C. 3-[2-(4-Methyl-piperazin-1-yl)-phenoxy]-1-(4-trifluoromethyl-phenyl)-pyrrolidin-2-one hydrochloride
To a 50 mL round-bottomed flask equipped with N2 inlet were added 320 mg (0.634 mmol) 3-[2-(4-t-butoxycarbonyl-piperazin-1-yl)-phenoxy]-1-(4-trifluoromethyl-phenyl)-pyrrolidin-2-one and 15 mL dry ethyl acetate. The reaction was saturated with dry HCl and stirred at room temperature for 2 hours. The reaction was evaporated and azeotroped with ether to afford a solid residue that was used directly as follows: To the residue in a 50 mL round-bottomed flask equipped with N2 inlet were added 10 mL dry tetrahydrofuran, 0.109 mL (1.45 mmol) of a 37% solution of formaldehyde in water, 0.041 mL (0.723 mmol) acetic acid, and 306 mg (1.45 mmol) sodium triacetoxyborohydride. The reaction was stirred at room temperature overnight, then diluted with ethyl acetate and saturated aqueous sodium bicarbonate solution. The layers were separated, and the aqueous layer was washed three times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, and evaporated. The residue was dissolved in ethyl acetate and the product extracted into 1N aqueous HCl; then the aqueous layer, after washing 2 times with ethyl acetate, was basified with solid potassium carbonate and extracted 3 times with ethyl acetate. The organic layer was dried over magnesium sulfate and evaporated. The resulting oil was dissolved in ethyl acetate and treated with 2 mL of a solution of ethyl acetate saturated with HCl, then evaporated to a solid, 37 mg (13%), mp 137–162° C.

reactant | 3-[2-(4-t-butoxycarbonyl-piperazin-1-yl)-phenoxy]-1-(4-trifluoromethyl-phenyl)-pyrrolidin-2-one | 0.634 mmol, 320 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(OC2C(N(CC2)C2=CC=C(C=C2)C(F)(F)F)=O)C=CC=C1 | C26H30F3N3O4
reactant | HCl | Cl | ClH
reactant | formaldehyde | C=O | CH2O
reactant | acetic acid | 0.723 mmol, 0.041 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.45 mmol, 306 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-[2-(4-Methyl-piperazin-1-yl)-phenoxy]-1-(4-trifluoromethyl-phenyl)-pyrrolidin-2-one hydrochloride | Cl.CN1CCN(CC1)C1=C(OC2C(N(CC2)C2=CC=C(C=C2)C(F)(F)F)=O)C=CC=C1 | InChI=1S/C22H24F3N3O2.ClH/c1-26-12-14-27(15-13-26)18-4-2-3-5-19(18)30-20-10-11-28(21(20)29)17-8-6-16(7-9-17)22(23,24)25;/h2-9,20H,10-15H2,1H3;1H
